US04812164
using 2-ethoxy-1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-pentafluoroethyl-6(1H)-pyrimidinone and 2-methoxyethyl chloroformate with pyridine in diethyl ether there is obtained {5-[2-ethoxy-6-oxo-4-pentafluoroethyl-1(6H) -pyrimidinyl]-2-chloro-4-fluorophenyl} 2-methoxyethyl carbonate, 1H-NMR (CDCl3, 400 MHz): 7.39 ppm (d,1H), 7.26 ppm (d,1H), 6.64 ppm (s,1H), 4.39°-4.56 ppm (m,4H), 3.70 ppm (m,2H), 3.43 ppm (s,3H), 1.30 ppm (t,3H):

reactant | 2-ethoxy-1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-pentafluoroethyl-6(1H)-pyrimidinone | C(C)OC=1N(C(C=C(N1)C(C(F)(F)F)(F)F)=O)C1=C(C=C(C(=C1)O)Cl)F | C14H9ClF6N2O3
reactant | 2-methoxyethyl chloroformate | ClC(=O)OCCOC | C4H7ClO3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | C(C)OCC | C4H10O
product | {5-[2-ethoxy-6-oxo-4-pentafluoroethyl-1(6H) -pyrimidinyl]-2-chloro-4-fluorophenyl} 2-methoxyethyl carbonate | C(OC1=C(C=C(C(=C1)N1C(=NC(=CC1=O)C(C(F)(F)F)(F)F)OCC)F)Cl)(OCCOC)=O | C18H15ClF6N2O6
